US08466199B2
The reaction of methyl 5-chloro-2-hydroxyl-benzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 2-Allyloxy-5-chloro-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.96 (s, —CO2H); 7.61 (m, 1 arom. H); 7.52 (m, 1 arom. H); 7.12 (m, 1 arom. H); 5.99 (m, —CH═CH2); 5.47, 5.23 (2 d-like, CH═CH2); 4.62 (d-like, CH2—CH═CH2). 13C-NMR (100 MHz, d6-DMSO): 166.08 (C═O); 155.70; 133.02; 132.25; 129.84; 123.85; 123.36; 117.15; 115.70; 68.91.

reactant | methyl 5-chloro-2-hydroxyl-benzoate | ClC=1C=CC(=C(C(=O)OC)C1)O | C8H7ClO3
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-Allyloxy-5-chloro-benzoic acid | C(C=C)OC1=C(C(=O)O)C=C(C=C1)Cl | C10H9ClO3
